US05302593
c) Preparation of 12-morpholinyldodecylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 12-morpholinyldodecylphthalimide (320 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 12-morpholinyldodecylphthalimide | 0.8 mmoles, 320 mg | N1(CCOCC1)CCCCCCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C24H36N2O3
solvent | methanol | 5 ml | CO | CH4O
product | 12-morpholinyldodecylamine | N1(CCOCC1)CCCCCCCCCCCCN | C16H34N2O
